US09447090B2
A mixture of 1.15 g of N-(1-benzyl-4-methylpiperidin-4-yl)-8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridine-3-carboxamide, 0.4 mL of 1-chloroethyl chloroformate, and 15 mL of dichloroethane was heated to reflux overnight. After leaving to be cooled at room temperature, the solvent was evaporated under reduced pressure, and to the residue was added 15 mL of methanol, followed by heating to reflux for 6 hours. After leaving to be cooled at room temperature, the solvent was evaporated under reduced pressure, and to the residue were added a saturated aqueous sodium hydrogen carbonate solution and chloroform to carry out a layer separation operation. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 426 mg of 8-(cyclohexylmethoxy)-2-methyl-N-(4-methylpiperidin-4-yl)imidazolo[1,2-a]pyridine-3-carboxamide.

reactant | N-(1-benzyl-4-methylpiperidin-4-yl)-8-(cyclohexylmethoxy)-2-methylimidazolo[1,2-a]pyridine-3-carboxamide | 1.15 g | C(C1=CC=CC=C1)N1CCC(CC1)(C)NC(=O)C1=C(N=C2N1C=CC=C2OCC2CCCCC2)C | C29H38N4O2
reactant | 1-chloroethyl chloroformate | 0.4 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | 8-(cyclohexylmethoxy)-2-methyl-N-(4-methylpiperidin-4-yl)imidazolo[1,2-a]pyridine-3-carboxamide | 426 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)NC2(CCNCC2)C | C22H32N4O2
